US08431569B2
Step 1. 7-Chloro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one
To 2,4-dihydroxypyridine (25.0 g, 225 mmol) in phenyl ether (400 mL) in a three neck flask fitted with a Dean-Stark trap was added 3-chlorophenylhydrazine. The reaction mixture was heated to 175° C. for 1 h, and to 230° C. for 3 h. The reaction mixture was allowed to cool to room temperature and diluted with toluene. The mixture was filtered, washed with MeOH, and dried. The collected solids were ground to fine power, slurried in MeOH, and sonicated for 5 min. The slurry was filtered, washed with MeOH, and dried to give the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.83 (s, 1H); 11.19 (s, 1H); 8.05 (d, 1H); 7.53 (d, 1H); 7.32 (t, 1H); 7.21 (dd, 1H); 6.52 (d, 1H). LRMS (APCI) calc'd for (C11H7ClN2O) [M+H]+, 219.0. found 219.1.

reactant | 2,4-dihydroxypyridine | 225 mmol, 25.0 g | OC1=NC=CC(=C1)O | C5H5NO2
reactant | 3-chlorophenylhydrazine | ClC=1C=C(C=CC1)NN | C6H7ClN2
solvent | phenyl ether | 400 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-Chloro-2,5-dihydro-1H-pyrido[4,3-b]indol-1-one | ClC=1C=CC=2C3=C(NC2C1)C=CNC3=O | C11H7ClN2O
